US09447090B2
To a solution of 270 mg of methyl N-{[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}serinate in 7 mL of methanol were added 210 mg of bisguanidine and 115 mg of sodium methoxide, followed by stirring at 65° C. for 8 hours. After leaving to be cooled, the insoluble material was collected by filtration, and washed with methanol, water, and hexane in this order to obtain 75 mg of 8-(cyclohexylmethoxy)-N-[1-(4,6-diamino-1,3,5-triazin-2-yl)-2-hydroxyethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide.

reactant | methyl N-{[8-(cyclohexylmethoxy)-2-methylimidazo[1,2-a]pyridin-3-yl]carbonyl}serinate | 270 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)N[C@@H](CO)C(=O)OC | C20H27N3O5
reactant | bisguanidine | 210 mg | CCCCC(CC)CN=C(N)NC(=NCCCCCCN=C(N)NC(=NCC(CC)CCCC)N)N | C26H56N10
reactant | sodium methoxide | 115 mg | C[O-].[Na+]
solvent | methanol | 7 mL | CO | CH4O
product | 8-(cyclohexylmethoxy)-N-[1-(4,6-diamino-1,3,5-triazin-2-yl)-2-hydroxyethyl]-2-methylimidazo[1,2-a]pyridine-3-carboxamide | 75 mg | C1(CCCCC1)COC=1C=2N(C=CC1)C(=C(N2)C)C(=O)NC(CO)C2=NC(=NC(=N2)N)N | C21H28N8O3
